US07807709B2
N-Isopropyl-4-methoxy-3-(3-methoxy-propoxy)-N-{(3S*,4S*)-4-[(methyl-phenylmethanesulfonyl-amino)-methyl]-pyrrolidin-3-ylmethyl}-benzamide
To a solution of (3R*,4S*)-3-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-4-[(methyl-phenylmethanesulfonyl-amino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (49 mg, 0.074 mmol) in 2 mL CH2Cl2, TFA (86 μL, 1.11 mmol) is added. The mixture is stirred 4 h at RT and then poured into a saturated solution of NaHCO3. The layers are separated, and the aqueous one is back-extracted twice with CH2Cl2. The combined organic extracts are dried over Na2SO4, filtered and concentrated. The crude material is purified by flash chromatography on an Isolute SPE Flash NH2 column (eluent: CH2Cl2/MeOH 100:0 to 95:5) to give the title product. TLC, Rf (CH2Cl2/MeOH 9:1)=0.2. MS (LC-MS): 563.0 [M+H]+; tR (HPLC, Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 4.55 min.

reactant | (3R*,4S*)-3-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-4-[(methyl-phenylmethanesulfonyl-amino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.074 mmol, 49 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(S(=O)(=O)CC1=CC=CC=C1)C)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C | C34H51N3O8S
reactant | TFA | 1.11 mmol, 86 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-Isopropyl-4-methoxy-3-(3-methoxy-propoxy)-N-{(3S*,4S*)-4-[(methyl-phenylmethanesulfonyl-amino)-methyl]-pyrrolidin-3-ylmethyl}-benzamide | C(C)(C)N(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C[C@@H]1CNC[C@H]1CN(S(=O)(=O)CC1=CC=CC=C1)C | C29H43N3O6S
